US04626538
N-[3-[3-(Dimethylamino)-1-oxo-2-propenyl]phenyl]propanamide
A 20 g portion of N-(3-acetylphenyl)propanamide in 50 ml of dimethylformamide dimethylacetal was refluxed for 8 hours, then evaporated. The residue was taken up in 200 ml of dichloromethane, passed through hydrous magnesium silicate, diluted with hexane and concentrated, giving 21.17 g of the desired compound.

reactant | N-(3-acetylphenyl)propanamide | C(C)(=O)C=1C=C(C=CC1)NC(CC)=O | C11H13NO2
reactant | dimethylformamide dimethylacetal | 50 ml | COC(N(C)C)OC | C5H13NO2
product | N-[3-[3-(Dimethylamino)-1-oxo-2-propenyl]phenyl]propanamide | 21.17 g | CN(C=CC(=O)C=1C=C(C=CC1)NC(CC)=O)C | C14H18N2O2
